US05583130
Step F: 4-Methyl-2'-(1H-1,2,3-triazol-4-yl)-1,1'-biphenyl
A solution of 2.52 g (13.1 mmol) of 4-methyl-2'-ethynyl-1,1'-biphenyl in 18 mL of trimethylsilyl azide under a nitrogen atmosphere was heated at 120° C. for 72 hours. The volume was reduced by distillation at atmosphere pressure. The residue was dissolved in methylene chloride. The organic layer was washed with water (3×) dried over magnesium sulfate, filtered and evaporated under vacuum to yield 3.1 g of crude product which was purified over silica gel, eluting with hexane/ethyl acetate (3:1) to yield 1.35 g (5.77 mmol, 44%) of the product. FAB-MS: calculated for C15H13N3 235; found 237. 1H NMR (400 MHz, CDCl3): 2.38 (s, 3H), 7.0 (s, 1H), 7.20 (dd, 4H), 7.40 (m, 3H), 7.80 (dd, 1H).

reactant | 4-methyl-2'-ethynyl-1,1'-biphenyl | 13.1 mmol, 2.52 g | CC1=CC=C(C=C1)C1=C(C=CC=C1)C#C | C15H12
reactant | trimethylsilyl azide | 18 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
product | 4-Methyl-2'-(1H-1,2,3-triazol-4-yl)-1,1'-biphenyl | 5.77 mmol, 1.35 g, 44% | CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NNC1 | C15H13N3
